US05162308
Preparation of 1-Methyl-2,4,5-tribromopyrrole-3-carbonitrile
To a stirred mixture of 0.87 g (7.75 mmol) of potassium t-butoxide in 30 mL of dry THF under a nitrogen atmosphere is added dropwise from an addition funnel 2.10 g (6.39 mmol) of 2,4,5-tribromopyrrole-3-carbonitrile in 20 mL of dry THF. After 15 minutes, 0.64 mL (10.3 mmol) of methyl iodide is added by syringe over 2 minutes. After several hours at room temperature, the mixture is diluted with 100 mL of water and 75 mL of ethyl acetate. The separated water

reactant | potassium t-butoxide | 7.75 mmol, 0.87 g | CC(C)([O-])C.[K+]
reactant | 2,4,5-tribromopyrrole-3-carbonitrile | 6.39 mmol, 2.10 g | BrC=1NC(=C(C1C#N)Br)Br | C5HBr3N2
reactant | methyl iodide | 10.3 mmol, 0.64 mL | CI | CH3I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | 1-Methyl-2,4,5-tribromopyrrole-3-carbonitrile | CN1C(=C(C(=C1Br)Br)C#N)Br | C6H3Br3N2
